US08372837B2
(E)-Dimethyl 2-(2-(3,4-dichlorophenyl)hydrazono)-3-oxopentanedioate (6.7 g, 19.3 mmol) in 1, 2 dichlorobenzene (20 mL) was heated at 180° C. overnight. After cooling, the reaction to room temperature, water 50 mL was added to the reaction mixture and it was stirred for 1 hour. The product was collected by filtration and further washed with water 20 mL and methanol (10 mL×3), then dried overnight under reduce pressure to yield 3.73 g (55.2%) of methyl 1-(3,4-dichlorophenyl)-4-hydroxy-6-oxo-1,6-dihydropyridazine-3-carboxylate as a tan solid. MS (ESI) 315 (M+H).

reactant | (E)-Dimethyl 2-(2-(3,4-dichlorophenyl)hydrazono)-3-oxopentanedioate | 19.3 mmol, 6.7 g | ClC=1C=C(C=CC1Cl)N\N=C(\C(=O)OC)/C(CC(=O)OC)=O | C13H12Cl2N2O5
reactant | water | 50 mL | O | H2O
solvent | 1, 2 dichlorobenzene | 20 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | methyl 1-(3,4-dichlorophenyl)-4-hydroxy-6-oxo-1,6-dihydropyridazine-3-carboxylate | 3.73 g, 55.2% | ClC=1C=C(C=CC1Cl)N1N=C(C(=CC1=O)O)C(=O)OC | C12H8Cl2N2O4
